US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-propyl-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0518 g, 0.176 mmol) and 1-bromopropane (0.030 mL, 0.330 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0548 g, 75.1%). EI-MS m/z 336(M+) Rt (1.97 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.176 mmol, 0.0518 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-bromopropane | 0.330 mmol, 0.030 mL | BrCCC | C3H7Br
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-propyl-1-azoniabicyclo[2.2.2]octane bromide | 0.0548 g, 75.1% | [Br-].OC(C12CC[N+](CC1)(CC2)CCC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C23H30NO.BrH/c1-2-16-24-17-13-22(14-18-24,15-19-24)23(25,20-9-5-3-6-10-20)21-11-7-4-8-12-21;/h3-12,25H,2,13-19H2,1H3;1H/q+1;/p-1
